.suckt  two_stage_fully_differential_op_amp_2_2 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1
c2 out2FirstStage out2
m1 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m3 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m4 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m5 outFeedback outFeedback sourceNmos sourceNmos nmos
m6 FeedbackStageYsourceTransconductance1 inputVoltageBiasXXpXX1 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m7 FeedbackStageYinnerStageBias1 ibias sourcePmos sourcePmos pmos
m8 FeedbackStageYsourceTransconductance2 inputVoltageBiasXXpXX1 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m9 FeedbackStageYinnerStageBias2 ibias sourcePmos sourcePmos pmos
m10 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m11 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m12 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m13 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m14 out1FirstStage outFeedback sourceNmos sourceNmos nmos
m15 out2FirstStage outFeedback sourceNmos sourceNmos nmos
m16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m18 out2FirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos
c4 out2 sourceNmos
m19 out1 outVoltageBiasXXnXX1 SecondStage1YinnerTransconductance SecondStage1YinnerTransconductance nmos
m20 SecondStage1YinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos
m21 out1 ibias sourcePmos sourcePmos pmos
m22 out2 outVoltageBiasXXnXX1 SecondStage2YinnerTransconductance SecondStage2YinnerTransconductance nmos
m23 SecondStage2YinnerTransconductance out2FirstStage sourceNmos sourceNmos nmos
m24 out2 ibias sourcePmos sourcePmos pmos
m25 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m26 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m27 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m28 ibias ibias sourcePmos sourcePmos pmos
.end two_stage_fully_differential_op_amp_2_2